US05668141
1a. picolinic acid t-butylamide
To a cooled solution of picolinic acid (3.6 g, 29.2 mmole, Aldrich) and triethylamine (8 mL, 57.4 mmole) in 80 mL of methylene chloride at 0° C. was added pivaloyl chloride (3.8 mL, 30.8 mmole). The mixture was stirred for 1 hour at 0° C., t-butylamine (4.0 mL, 38.1 mmole) was added, and stirring was continued for 1 hour at 0° C. and 1 hour at room temperature. Saturated NaHCO3 (30 mL) was added, the layers were separated, and the aqueous layer was extracted with methylene chloride (2×30 mL). The combined organic solutions were dried and concentrated, and the residue was chromatographed in silica gel, eluting with 30 to 60% ethyl acetate in hexane, to provide 5.2 g of the title compound as an oil. MS: 179 (M+H)+ ; 1H NMR (CDCl3) δ: 8.52 (m, (1H), 8.18 (dm, J=7.5 Hz, 1H), 8.0 (s, br, 1H), 7.84 (dt, J=7.5, 1.5 Hz, 1H), 7.40 (ddd, J=7.5, 5.0, 1.5 Hz, 1H), 1.50 (s, 9H).

reactant | picolinic acid | 29.2 mmole, 3.6 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | triethylamine | 57.4 mmole, 8 mL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 30.8 mmole, 3.8 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | t-butylamine | 38.1 mmole, 4.0 mL | C(C)(C)(C)N | C4H11N
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | picolinic acid t-butylamide | 5.2 g | C(C)(C)(C)NC(C1=NC=CC=C1)=O | C10H14N2O
